US07160854B2
To a −80° C. solution of (+/−)-3,3′-diiodo-2,2′-dimethoxy-1,1′-binaphthyl (2.016 g, 3.6 mmol) in THF (dry, distilled, 80 mL, 0.044 M) was added n-butyl lithium (2.8 mL, 3.9 mmol) dropwise. The reaction mixture turned yellow and was stirred for 1 h before the addition of methyl iodide (dry, distilled, 0.35 mL, 5.6 mmol). The reaction mixture was allowed to gradually warm to room temperature. After stirring for a further 3 h saturated aqueous ammonium chloride solution (4 drops) was added. The reaction mixture was evaporated to dryness, the residue taken up in diethyl ether and washed with water. The organic layer was dried (MgSO4), filtered and the filtrate evaporated to dryness to give a pale yellow solid. Purification of the crude material by flash column chromatography (4% ethyl acetate/hexane) yielded (+/−)-2,2′-dimethoxy-3-iodo-3′-methyl-1,1′-binaphthyl.

reactant | (+/−)-3,3′-diiodo-2,2′-dimethoxy-1,1′-binaphthyl | 3.6 mmol, 2.016 g | IC=1C(=C(C2=CC=CC=C2C1)C1=C(C(=CC2=CC=CC=C12)I)OC)OC | C22H16I2O2
reactant | n-butyl lithium | 3.9 mmol, 2.8 mL | C(CCC)[Li]
reactant | methyl iodide | 5.6 mmol, 0.35 mL | CI | CH3I
solvent | THF | 0.044 M, 80 mL | C1CCOC1 | C4H8O
catalyst | ammonium chloride | 4 drops | [Cl-].[NH4+]
product | (+/−)-2,2′-dimethoxy-3-iodo-3′-methyl-1,1′-binaphthyl | COC1=C(C2=CC=CC=C2C=C1I)C1=C(C(=CC2=CC=CC=C12)C)OC | C23H19IO2
